US08202858B2
2-Methyl-5,6-dihydro-4H-3-thia-1,6-diaza-benzo[e]azulene
A suspension of (2-methyl-4,5-dihydro-3-thia-1,6-diaza-benzo[e]azulen-6-yl)-phenyl-methanone from Example E7.1 (0.42 g, 1.3 mmol) in 6M hydrochloric acid (45 ml) was heated at reflux for 16 h. The solution was cooled and treated with saturated NaHCO3 (aq) (10 ml). Additional solid NaHCO3 was added until the solution was basic. The mixture was extracted with dichloromethane and the organic extracts were dried and reduced in vacuo to yield the title compound as a yellow oil (0.21 g, 76%).

reactant | (2-methyl-4,5-dihydro-3-thia-1,6-diaza-benzo[e]azulen-6-yl)-phenyl-methanone | CC=1SC=2CCN(C3=C(C2N1)C=CC=C3)C(=O)C3=CC=CC=C3 | C19H16N2OS
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | hydrochloric acid | 6M, 45 ml | Cl | ClH
product | 2-Methyl-5,6-dihydro-4H-3-thia-1,6-diaza-benzo[e]azulene | 0.21 g, 76% | CC=1SC=2CCNC3=C(C2N1)C=CC=C3 | C12H12N2S
